US08048878B2
Synthesis of 5-(3,4,5-trifluorophenyl)piperazine-1,3-dicarboxylic acid 3-ethyl ester 1-methyl ester
IPEA (1.85 mL) and sodium iodide (795 mg) were added to a solution of ethyl 3-{[2-amino-2-(3,4,5-trifluorophenyl)ethyl]methoxycarbonylamino}-2-chloropropionate (2.03 g) in THF (20 mL), and the reaction solution was stirred at 80° C. for four hours. The reaction solution was left to cool to room temperature. Then, ethyl acetate and saturated sodium bicarbonate water were added to the reaction solution, and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (heptane->heptane:ethyl acetate=2:1) to obtain 991 mg of the title compound. The property value of the compound is as follows.

reactant | IPEA | 1.85 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium iodide | 795 mg | [I-].[Na+]
reactant | ethyl 3-{[2-amino-2-(3,4,5-trifluorophenyl)ethyl]methoxycarbonylamino}-2-chloropropionate | 2.03 g | NC(CN(CC(C(=O)OCC)Cl)C(=O)OC)C1=CC(=C(C(=C1)F)F)F | C15H18ClF3N2O4
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(3,4,5-trifluorophenyl)piperazine-1,3-dicarboxylic acid 3-ethyl ester 1-methyl ester | 991 mg | COC(=O)N1CC(NC(C1)C1=CC(=C(C(=C1)F)F)F)C(=O)OCC | C15H17F3N2O4
